US04880820
(S)-9-(2-Hydroxy-3-octanoyloxy-1-propoxymethyl)guanine
A suspension of 410 mg (1.5 mmole) of (S)-9-(2,3-dihydroxy-1-propoxymethyl)guanine monohydrate in 6 ml of dry dimethylformamide and 1.5 ml of dry pyridine is stirred under a drying tube with cooling in an ice bath as a solution of 489 mg (3.0 mmole) of octanoyl chloride in 1.5 ml of dimethylformamide is added dropwise by syringe over approximately 5 minutes. The mixture is allowed to warm gradually to room temperature, and after 24 hours it is concentrated under high vacuum. The residual oil is purified by preparative TLC on nine 1000-μ silica gel plates (developed in 5:1 CHCl3 -MeOH). The product bands are isolated, combined, and extracted with dimethylformamide.

reactant | (S)-9-(2,3-dihydroxy-1-propoxymethyl)guanine monohydrate | 1.5 mmole, 410 mg | O.O[C@H](COCN1C=2N=C(NC(C2N=C1)=O)N)CO
reactant | octanoyl chloride | 3.0 mmole, 489 mg | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | (S)-9-(2-Hydroxy-3-octanoyloxy-1-propoxymethyl)guanine | O[C@@H](COCN1C=2N=C(NC(C2N=C1)=O)N)COC(CCCCCCC)=O | C17H27N5O5
